US07041685B2
To a stirring solution of 5-(3-bromo-5-formyl-furan-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole (60 mg, 0.170 mmol), sodium cyanoborohydride (10.5 mg, 0.167 mmol), acetic acid (10.0 μL, 0.173 mmol), and methanol (2.0 mL) under argon was added morpholine (50 μL, 0.57 mmol). The solution was stirred for 24 h and concentrated to dryness. The product was purified by column chromatography (2:1, hexane:ethyl acetate) to yield 12 mg (17%) of 5-(3-bromo-5-morpholinomethyl-furan-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole as a white solid. 1H NMR (CDCl3): 8.12 (d, J=8.51 Hz, 2H), 7.49 (d, J=8.52 Hz, 2H), 6.60 (s, 1H), 3.74 (t, J=4.67 Hz, 4H), 3.67 (s, 2H), 2.56 (t, J=4.67 Hz, 4H); and to also yield 12 mg (20%) of 5-(3-bromo-5-hydroxymethyl-furan-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole as a white solid. 1H NMR (CDCl3): 8.11 (dd, J=8.79, 2.20 Hz, 2H), 7.49 (dd, J=8.79, 2.20 Hz, 2H), 6.67 (s, 1H), 4.77 (d, J=6.32 Hz, 2H), 2.09 (t, J=6.46 Hz, 4H).

reactant | 5-(3-bromo-5-formyl-furan-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole | 0.170 mmol, 60 mg | BrC1=C(OC(=C1)C=O)C1=NC(=NO1)C1=CC=C(C=C1)Cl | C13H6BrClN2O3
reactant | sodium cyanoborohydride | 0.167 mmol, 10.5 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.173 mmol, 10.0 μL | C(C)(=O)O | C2H4O2
reactant | morpholine | 0.57 mmol, 50 μL | N1CCOCC1 | C4H9NO
solvent | methanol | 2.0 mL | CO | CH4O
product | 5-(3-bromo-5-morpholinomethyl-furan-2-yl)-3-(4-chloro-phenyl)-[1,2,4]-oxadiazole | 12 mg, 17% | BrC1=C(OC(=C1)CN1CCOCC1)C1=NC(=NO1)C1=CC=C(C=C1)Cl | C17H15BrClN3O3
